US08012976B2
(E)-4-(quinolin-6-ylmethyleneamino)isobenzofuran-1(3H)-one
A solution of quinoline-6-carbaldehyde (786 mg, 5.0 mmol), 4-aminoisobenzofuran-1(3H)-one (745 mg, 5.0 mmol) and anhydrous magnesium sulfate (6.0 g, 50.0 mmol) in acetonitrile (100 ml) was heated at reflux for two days. The solution was filtered and removed in vacuum. The crude product was re-crystallized from isopropanol to give the title compound (1.348 g, yield 93%) LC-MS (ESI) m/z: 289 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 5.57 (s, 2H), 7.63-7.77 (m, 4H), 8.14-8.16 (d, J=8.8 Hz, 1H), 8.39-8.42 (m, 1H), 8.53-8.56 (m, 2H), 8.99-9.01 (m, 2H).

reactant | quinoline-6-carbaldehyde | 5.0 mmol, 786 mg | N1=CC=CC2=CC(=CC=C12)C=O | C10H7NO
reactant | 4-aminoisobenzofuran-1(3H)-one | 5.0 mmol, 745 mg | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
reactant | magnesium sulfate | 50.0 mmol, 6.0 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (E)-4-(quinolin-6-ylmethyleneamino)isobenzofuran-1(3H)-one | 1.348 g, yield 93% | N1=CC=CC2=CC(=CC=C12)\C=N\C1=C2COC(C2=CC=C1)=O | C18H12N2O2
